US04008219
20 ml of ethanol was added to 1 g of 2,3,4,5-tetrahydro-1,6-methano-1H-4-benzazonin-7(6H)-one and 0.63 g of sodium carbonate, and the mixture was heated and refluxed. Then, 0.72 g of allyl bromide was gradually added to the mixture, and the reaction mixture liquid was heated and refluxed for 5 hours. The mixture was cooled and filtered, and methanol and excessive allyl bromide were distilled from the filtrate. The residue was dissolved in 20 ml of methanol and cooled with ice water, and 0.15 g of sodium boron hydride was gradually added to the solution under agitation. Then, the mixture was agitated at room temperature for 2 hours. Methanol was distilled from the reaction mixture, and 15 ml of water was added to the residue and the mixture was shaken sufficiently. Then, the mixture was extracted with ether and the extract was subjected to distillation to remove ether therefrom. The residue was recrystallized from cyclohexane to obtain 0.9 g of 4-allyl-2,3,4,5,6,7-hexahydro-1,6-methano-1H-4 -benzazonin-7-ol in the form of a white crystal melting at 98° to 100° C.

reactant | 2,3,4,5-tetrahydro-1,6-methano-1H-4-benzazonin-7(6H)-one | 1 g | C12CCNCC(C(C3=C1C=CC=C3)=O)C2 | C13H15NO
reactant | sodium carbonate | 0.63 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | allyl bromide | 0.72 g | C(C=C)Br | C3H5Br
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-allyl-2,3,4,5,6,7-hexahydro-1,6-methano-1H-4 -benzazonin-7-ol | 0.9 g | C(C=C)N1CC2C(C3=C(C(CC1)C2)C=CC=C3)O | C16H21NO
